US07407968B2
4-[(Cyclobutylmethyl)amino]-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide
Following the general procedure for Intermediate 2 using 4-fluoro-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide (237 mg, 0.680 mmol) and cyclobutylmethyl amine (0.205 mL of a 4M/MeOH solution, 0.816 mmol) in 3 mL of EtOH containing TEA (0.140 mL, 1.02 mmol). The product was purified by flash chromatography on silica gel using 3:1/hexanes:EtOAc as eluent. Yield: 262 mg (93%); 1H NMR (400 MHz, CHLOROFORM-D) δ 1.83 (m, 2H), 1.97 (m, 1H), 2.02 (m, 1H), 2.20 (m, 2H), 2.73 (m, 1H), 3.37 (m, 2H), 4.27 (m, 4H), 6.93 (d, J=8.98 Hz, 1H), 7.53 (d, J=8.79 Hz, 1H), 8.24 (m, 1H), 8.30 (m, 1H); MS (ESI) 413.95 (MH+).

reactant | 4-fluoro-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide | 0.680 mmol, 237 mg | FC1=C(C=C(C(=O)N(CC(F)(F)F)CC(F)(F)F)C=C1)[N+](=O)[O-] | C11H7F7N2O3
reactant | cyclobutylmethyl amine | C1(CCC1)CN | C5H11N
reactant | MeOH | CO | CH4O
solvent | EtOH | 3 mL | CCO | C2H6O
product | 4-[(Cyclobutylmethyl)amino]-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide | C1(CCC1)CNC1=C(C=C(C(=O)N(CC(F)(F)F)CC(F)(F)F)C=C1)[N+](=O)[O-] | C16H17F6N3O3
